* C:\Users\Joel Andreasson\Documents\Solar-project\LTSpice\voltage adder.asc
V2 N002 0 5
R1 N012 0 100k
R2 N002 N012 100k
XU1 N012 N011 N002 0 N011 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU2 N001 N006 N002 0 N003 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU3 N007 N009 N002 0 N010 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU4 N008 N004 N002 0 N005 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R3 N003 N006 50k
R4 N010 N009 50k
R5 N004 N003 150k
R6 N005 N004 150k
R7 N008 N010 150k
R8 N011 N008 150k
R9 N006 N009 1000k
V1 N001 0 SINE(3 1 2)
V3 N007 0 SINE(2 1 1)
.tran 10
.lib UniversalOpamps2.sub
.backanno
.end
